US05567716
Preparation of Erythromycin trans-traumatate
2.28 g of trans-traumatic acid (10 mmol) are suspended in 100 ml of water/ethanol 2:1 mixture at 4° C. 14.7 g of erythromycin free base (20 mmol) are added and the resulting mixture is kept under stirring at 4° C. for 3 hours and then heated to 25° C. overnight. 200 ml water ape then added. The mixture is concentrated under vacuum to a volume of about 100 ml and cooled to 4° C.

reactant | trans-traumatic acid | 10 mmol, 2.28 g | C(\C=C\CCCCCCCCC(=O)O)(=O)O | C12H20O4
reactant | erythromycin | 20 mmol, 14.7 g | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)(C)O | C37H67NO13
reactant | water | 200 ml | O | H2O
solvent | water ethanol | 100 ml | O.C(C)O
product | Erythromycin trans-traumatate | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)(C)O.C(\C=C\CCCCCCCCC(=O)[O-])(=O)[O-] | InChI=1S/C37H67NO13.C12H20O4/c1-14-25-37(10,45)30(41)20(4)27(39)18(2)16-35(8,44)32(51-34-28(40)24(38(11)12)15-19(3)47-34)21(5)29(22(6)33(43)49-25)50-26-17-36(9,46-13)31(42)23(7)48-26;13-11(14)9-7-5-3-1-2-4-6-8-10-12(15)16/h18-26,28-32,34,40-42,44-45H,14-17H2,1-13H3;7,9H,1-6,8,10H2,(H,13,14)(H,15,16)/p-2/b;9-7+/t18-,19-,20+,21+,22-,23+,24+,25-,26+,28-,29+,30-,31+,32-,34+,35-,36-,37-;/m1./s1
